US08476297B2
tert-Butyl 1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate
To a mixture of 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (100 mg, 0.361 mmol, example 9 (step 3) and DIEA (62.8 μL, 0.361 mmol), and DCM (1 mL) was added di-tert-butyldicarbonate (82.9 μL, 0.361 mmol). The resulting mixture was stirred at RT for 16 h. Then, H2O (1 mL) was added and the mixture was extracted with DCM (2×2 mL). The combined organic extracts were dried over MgSO4 and concentrated. The residue was purified by silica gel chromatography (0%-100% EtOAc/hexane) to give the title compound as an off-white oil. MS (ESI, positive ion) m/z: 322 (M-tert-butyl).

reactant | 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | FC(C1=CC=C(C=C1)C1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | DIEA | 0.361 mmol, 62.8 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | DCM | 1 mL | C(Cl)Cl | CH2Cl2
reactant | di-tert-butyldicarbonate | 0.361 mmol, 82.9 μL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | H2O | 1 mL | O | H2O
product | tert-Butyl 1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | FC(C1=CC=C(C=C1)C1N(CCC2=CC=CC=C12)C(=O)OC(C)(C)C)(F)F | C21H22F3NO2
